* H:\Graduate Research\Boost.asc
V1 N002 0 25
L1 N001 out 16µ
M1 N002 NC_01 N001 N001 BSC032NE2LS
C1 out 0 40µ
R1 out 0 10
D1 0 N001 RB060MM-40
.model D D
.lib C:\Users\jbaxte24\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\jbaxte24\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1
.ic V(out)=50 I(L1)=5
.backanno
.end
