* G:\My Drive\Graduate Reserach\LTSpice\Quillen\Buck_Boost.asc
V1 N003 0 12
M1 N003 NC_01 N004 N004 NMOS
M2 N004 NC_02 0 0 NMOS
L1 N004 N005 22µ
M3 N001 NC_03 N002 N002 NMOS
M4 N002 NC_04 N005 N005 NMOS
M5 N005 NC_05 N006 N006 NMOS
M6 N006 NC_06 0 0 NMOS
C1 N001 0 20µ
C2 N002 N006 9.3µ
R1 N001 0 3
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\jb\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1
.backanno
.end
