* G:\My Drive\Graduate Reserach\LTSpice\Buck\Buck_Vout_D.asc
V1 N001 N007 12
M1 N001 NC_01 N002 N002 NMOS
M2 N002 NC_02 0 0 NMOS
L1 N003 N004 200n
V2 N004 N006 4
R2 N006 0 5m
C1 N005 0 2µ
R4 N004 N005 2m
R1 N003 N002 0.0024
D1 N002 N001 D
D2 0 N002 D
R3 N007 0 2µ
.model D D
.lib C:\Users\jb\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\jb\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1
.backanno
.end
