* G:\My Drive\Graduate Reserach\LTSpice\Buck\COMPEL2023_3LevelBuck.asc
V1 N003 0 V
R1 N001 N003 1
M1 N001 NC_01 N002 N002 NMOS
M2 N002 NC_02 N004 N004 NMOS
M3 N004 NC_03 N008 N008 NMOS
M4 N008 NC_04 0 0 NMOS
D1 N002 N001 D
D2 N004 N002 D
D3 N008 N004 D
D4 0 N008 D
C1 N007 N008 1
R2 N002 N007 1
L1 N004 N005 1
R3 N006 N005 1
M5 N001 NC_05 N009 N009 NMOS
M6 N009 NC_06 N010 N010 NMOS
M7 N010 NC_07 N014 N014 NMOS
M8 N014 NC_08 0 0 NMOS
D5 N009 N001 D
D6 N010 N009 D
D7 N014 N010 D
D8 0 N014 D
C2 N012 N014 1
R4 N009 N012 1
L2 N010 N011 1
R5 N006 N011 1
M9 N001 NC_09 N015 N015 NMOS
M10 N015 NC_10 N016 N016 NMOS
M11 N016 NC_11 N019 N019 NMOS
M12 N019 NC_12 0 0 NMOS
D9 N015 N001 D
D10 N016 N015 D
D11 N019 N016 D
D12 0 N019 D
C3 N018 N019 1
R6 N015 N018 1
L3 N016 N017 1
R7 N006 N017 1
C4 N006 N013 1
R8 N013 0 1
V2 N006 0 V
.model D D
.lib C:\Users\jb\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\jb\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1
.backanno
.end
