* G:\My Drive\Graduate Reserach\LTSpice\Buck\COMPEL2023_4LevelBuck.asc
V1 N004 0 V
M1 N001 NC_01 N002 N002 NMOS
M2 N002 NC_02 N003 N003 NMOS
M3 N003 NC_03 N005 N005 NMOS
M4 N005 NC_04 N008 N008 NMOS
D1 N002 N001 D
D2 N003 N002 D
D3 N005 N003 D
D4 N008 N005 D
M5 N008 NC_05 N009 N009 NMOS
M6 N009 NC_06 0 0 NMOS
D5 N009 N008 D
D6 0 N009 D
C1 N003 P001 1
R1 P001 N008 1
C2 N002 P002 1
R2 P002 N009 1
L1 N005 N006 1
R3 N007 N006 1
M7 N001 NC_07 N010 N010 NMOS
M8 N010 NC_08 N011 N011 NMOS
M9 N011 NC_09 N012 N012 NMOS
M10 N012 NC_10 N014 N014 NMOS
D7 N010 N001 D
D8 N011 N010 D
D9 N012 N011 D
D10 N014 N012 D
M11 N014 NC_11 N015 N015 NMOS
M12 N015 NC_12 0 0 NMOS
D11 N015 N014 D
D12 0 N015 D
C3 N011 P003 1
R4 P003 N014 1
C4 N010 P004 1
R5 P004 N015 1
L2 N012 N013 1
R6 N007 N013 1
M13 N001 NC_13 N016 N016 NMOS
M14 N016 NC_14 N017 N017 NMOS
M15 N017 NC_15 N018 N018 NMOS
M16 N018 NC_16 N020 N020 NMOS
D13 N016 N001 D
D14 N017 N016 D
D15 N018 N017 D
D16 N020 N018 D
M17 N020 NC_17 N022 N022 NMOS
M18 N022 NC_18 0 0 NMOS
D17 N022 N020 D
D18 0 N022 D
C5 N017 P005 1
R7 P005 N020 1
C6 N016 P006 1
R8 P006 N022 1
L3 N018 N019 1
R9 N007 N019 1
R10 N001 N004 1
C7 N007 N021 1
R11 N021 0 1
V2 N007 0 V
.model D D
.lib C:\Users\jb\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\jb\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1
.backanno
.end
