* G:\My Drive\Graduate Reserach\LTSpice\Buck\Dickson2.asc
M1 N002 NC_01 N005 N005 NMOS
M2 N005 NC_02 N011 N011 NMOS
M3 N011 NC_03 N025 N025 NMOS
V1 N001 0 1
C1 N005 N006 1
C2 N011 N020 1
I1 N010 0 1
M4 N004 NC_04 N003 N003 NMOS
M5 N003 NC_05 0 0 NMOS
M6 N019 NC_06 N018 N018 NMOS
M7 N018 NC_07 0 0 NMOS
M8 N004 NC_08 N012 N012 NMOS
M9 N012 NC_09 N016 N016 NMOS
M10 N008 NC_10 0 0 NMOS
M11 N014 NC_11 0 0 NMOS
M12 N016 NC_12 0 0 NMOS
C3 N004 N007 1
C4 N012 N013 1
R1 N008 N009 1
L1 N009 N010 1
R2 N014 N015 1
L2 N015 N010 1
R3 N016 N017 1
L3 N017 N010 1
M13 N019 NC_13 N024 N024 NMOS
M14 N024 NC_14 N030 N030 NMOS
M15 N022 NC_15 0 0 NMOS
M16 N027 NC_16 0 0 NMOS
M17 N030 NC_17 0 0 NMOS
C5 N019 N021 1
C6 N024 N026 1
R4 N022 N023 1
L4 N023 N010 1
R5 N027 N028 1
L5 N028 N010 1
R6 N030 N031 1
L6 N031 N010 1
M18 N025 NC_18 N035 N035 NMOS
M19 N035 NC_19 N039 N039 NMOS
M20 N033 NC_20 0 0 NMOS
M21 N037 NC_21 0 0 NMOS
M22 N039 NC_22 0 0 NMOS
C7 N025 N032 1
C8 N035 N036 1
R7 N033 N034 1
L7 N034 N010 1
R8 N037 N038 1
L8 N038 N010 1
R9 N039 N040 1
L9 N040 N010 1
C9 N029 0 1
R10 N001 N002 1
D1 N005 N002 D
D2 N011 N005 D
D3 N025 N011 D
D4 N003 N004 D
D5 0 N003 D
D6 N018 N019 D
D7 0 N018 D
D8 N012 N004 D
D9 N016 N012 D
D10 0 N008 D
D11 0 N014 D
D12 0 N016 D
D13 N024 N019 D
D14 N030 N024 D
D15 0 N022 D
D16 0 N027 D
D17 0 N030 D
D18 N035 N025 D
D19 N039 N035 D
D20 0 N033 D
D21 0 N037 D
D22 0 N039 D
R11 N010 N029 1
R12 N006 N003 1
R13 N020 N018 1
R14 N007 N008 1
R15 N013 N014 1
R16 N021 N022 1
R17 N026 N027 1
R18 N032 N033 1
R19 N036 N037 1
.model D D
.lib C:\Users\jb\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\jb\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1
.backanno
.end
