* G:\My Drive\Graduate Reserach\LTSpice\Buck\Dual_Phase_MultiInductor_Hybrid.asc
V1 N001 0 1
M1 N002 NC_01 N003 N003 NMOS
D1 N003 N002 D
M2 N003 NC_02 N007 N007 NMOS
D2 N007 N003 D
M3 N007 NC_03 N011 N011 NMOS
D3 N011 N007 D
M4 N011 NC_04 N013 N013 NMOS
D4 N013 N011 D
M5 N004 NC_05 0 0 NMOS
D5 0 N004 D
M6 N008 NC_06 0 0 NMOS
D6 0 N008 D
M7 N012 NC_07 0 0 NMOS
D7 0 N012 D
M8 N013 NC_08 0 0 NMOS
D8 0 N013 D
L1 N004 N006 1
L2 N008 N010 1
L3 N012 N014 1
L4 N013 N015 1
C1 N003 N005 1
C2 N007 N009 1
C3 N011 P001 1
C4 N016 N017 1
V2 N016 0 1
R1 N006 N016 1
R2 N010 N016 1
R3 N014 N016 1
R4 N015 N016 1
R5 N004 N005 1
R6 N009 N008 1
R7 N012 P001 1
R8 N017 0 1
R9 N002 N001 1
.model D D
.lib C:\Users\jb\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\jb\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1
.backanno
.end
