* G:\My Drive\Graduate Reserach\LTSpice\Gabriel Paper\Gab_Buck.asc
M1 IN NC_01 SW SW NMOS
M2 SW NC_02 0 0 NMOS
V1 IN 0 4
L1 SW OUT 1µ
C1 OUT 0 100µ
R1 OUT 0 0.025
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\jared\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1
.backanno
.end
