* C:\Users\jared\Downloads\Hybrid_Buck.asc
Vg Vg 0 6
L1 Vg Va 1µ
Cfly Va Vb 10µ
Cout Vout 0 100µ
M1 Va N001 Vout Vout NTLMS4502N
M2 Vout N002 Vb Vb NTLMS4502N
M3 Vb N003 0 0 NTLMS4502N
R1 Vout 0 0.8
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\jared\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1
.backanno
.end
