* G:\My Drive\Graduate Reserach\LTSpice\COMPEL 2023\Induct_Load_Dickson_D.asc
V1 N001 0 1
I1 N017 0 1
M1 N001 NC_01 N002 N002 NMOS
M2 N002 NC_02 N005 N005 NMOS
M3 N005 NC_03 N006 N006 NMOS
M4 N006 NC_04 N009 N009 NMOS
C1 N002 P001 1
C2 P002 N004 1
C3 N007 N003 1
C4 N008 N004 1
M5 N009 NC_05 N010 N010 NMOS
M6 N010 NC_06 N012 N012 NMOS
M7 N012 NC_07 N013 N013 NMOS
M8 N013 NC_08 N015 N015 NMOS
C5 P003 N003 1
C6 N011 N004 1
C7 N014 N003 1
C8 N017 N018 1
M9 N015 NC_09 N004 N004 NMOS
M10 N004 NC_10 0 0 NMOS
M11 N015 NC_11 N003 N003 NMOS
M12 N003 NC_12 0 0 NMOS
R1 N003 P001 1
R2 N005 P002 1
R3 N007 N006 1
R4 N009 N008 1
R5 P003 N010 1
R6 N012 N011 1
R7 N014 N013 1
R8 N016 N017 1
L1 N015 N016 1
D1 N002 N001 D
D2 N005 N002 D
D3 N006 N005 D
D4 N009 N006 D
D5 N010 N009 D
D6 N012 N010 D
D7 N013 N012 D
D8 N015 N013 D
D9 N004 N015 D
D10 0 N004 D
D11 N003 N015 D
D12 0 N003 D
R9 N018 0 1
.model D D
.lib C:\Users\jb\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\jb\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 5
.backanno
.end
