* G:\My Drive\Graduate Reserach\LTSpice\Buck\LEGOPOL.asc
M1 N001 NC_01 N003 N003 NMOS
M2 N003 NC_02 N011 N011 NMOS
M3 N011 NC_03 N015 N015 NMOS
M4 N015 NC_04 N020 N020 NMOS
M5 N020 NC_05 N024 N024 NMOS
M6 N024 NC_06 N022 N022 NMOS
M7 N002 NC_07 N005 N005 NMOS
M8 N005 NC_08 0 0 NMOS
M9 N002 NC_09 N010 N010 NMOS
M10 N010 NC_10 0 0 NMOS
M11 N012 NC_11 N016 N016 NMOS
M12 N016 NC_12 0 0 NMOS
M13 N012 NC_13 N017 N017 NMOS
M14 N017 NC_14 0 0 NMOS
M15 N022 NC_15 N027 N027 NMOS
M16 N027 NC_16 0 0 NMOS
M17 N002 NC_17 N006 N006 NMOS
M18 N006 NC_18 0 0 NMOS
M19 N012 NC_19 N014 N014 NMOS
M20 N014 NC_20 0 0 NMOS
M21 N022 NC_21 N023 N023 NMOS
M22 N023 NC_22 0 0 NMOS
V1 N013 0 1
C1 N003 N004 1
C2 N011 N009 1
C3 N015 P001 1
C4 N020 N019 1
C5 N024 N026 1
R1 N006 N007 1
L1 N007 N008 1
R2 N014 N018 1
L2 N018 N008 1
R3 N023 N025 1
L3 N025 N008 1
I1 N008 0 1
C6 N021 0 1
R4 N001 N013 1
R5 N004 N005 1
R6 N009 N010 1
R7 P001 N016 1
R8 N019 N017 1
R9 N026 N027 1
R10 N008 N021 1
D1 N003 N001 D
D2 N011 N003 D
D3 N015 N011 D
D4 N020 N015 D
D5 N024 N020 D
D6 N022 N024 D
D7 N005 N002 D
D8 0 N005 D
D9 N010 N002 D
D10 0 N010 D
D11 N016 N012 D
D12 0 N016 D
D13 N017 N012 D
D14 0 N017 D
D15 N027 N022 D
D16 0 N027 D
D17 N006 N002 D
D18 0 N006 D
D19 N014 N012 D
D20 0 N014 D
D21 N023 N022 D
D22 0 N023 D
.model D D
.lib C:\Users\jb\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\jb\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1
.backanno
.end
