* G:\My Drive\Graduate Reserach\LTSpice\Buck\SCBuckHybridBuck.asc
V1 N008 0 1
R1 N008 N009 1
M1 N009 NC_01 N010 N010 NMOS
M2 N010 NC_02 N012 N012 NMOS
M3 N012 NC_03 N015 N015 NMOS
M4 N015 NC_04 0 0 NMOS
D1 N010 N009 D
D2 N012 N010 D
D3 N015 N012 D
D4 0 N015 D
C1 N010 N011 1
C2 N012 N013 1
R2 N011 N003 1
R3 N013 N006 1
L1 P001 N014 1
R4 N015 P001 1
M5 N002 NC_05 N016 N016 NMOS
D5 N016 N002 D
M6 N016 NC_06 0 0 NMOS
D6 0 N016 D
M7 N014 NC_07 N002 N002 NMOS
D7 N002 N014 D
C3 P002 N016 1
R5 N014 P002 1
M8 N006 NC_08 0 0 NMOS
D8 0 N006 D
M9 N003 NC_09 0 0 NMOS
D9 0 N003 D
L2 P003 N001 1
R6 N003 P003 1
M10 N002 NC_10 N004 N004 NMOS
D10 N004 N002 D
M11 N004 NC_11 0 0 NMOS
D11 0 N004 D
M12 N001 NC_12 N002 N002 NMOS
D12 N002 N001 D
C4 P004 N004 1
R7 N001 P004 1
L3 P005 N005 1
R8 N006 P005 1
M13 N002 NC_13 N007 N007 NMOS
D13 N007 N002 D
M14 N007 NC_14 0 0 NMOS
D14 0 N007 D
M15 N005 NC_15 N002 N002 NMOS
D15 N002 N005 D
C5 P006 N007 1
R9 N005 P006 1
C6 N002 N017 1
V2 N002 N018 1
R10 N017 0 1
R11 N018 0 1
.model D D
.lib C:\Users\jb\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\jb\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1
.backanno
.end
