* G:\My Drive\Graduate Reserach\LTSpice\SC Fibb\AURA\SC_FIB_AURA_8V.asc
M1 N003 NC_01 N009 N009 NMOS
M2 N009 NC_02 0 0 NMOS
M3 N002 NC_03 N003 N003 NMOS
V1 N004 N012 12
V2 N010 0 4
R1 N003 N010 5m
R3 N004 N005 5m
R4 N012 N013 5m
L1 N005 N001 100n
L2 N013 0 100n
C1 N009 N008 5µ
C5 N003 N011 2µ
R5 N008 N002 3m
R9 N011 0 2m
M4 N002 NC_04 N007 N007 NMOS
M5 N007 NC_05 0 0 NMOS
M6 N001 NC_06 N002 N002 NMOS
C2 N007 N006 5µ
R2 N006 N001 3m
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\jb\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1
.backanno
.end
