* G:\My Drive\Graduate Reserach\LTSpice\SC Fibb\AURA\SC_FIB_AURA_D.asc
M1 N001 NC_01 N008 N008 NMOS
M2 N008 NC_02 N012 N012 NMOS
M3 N003 NC_03 N001 N001 NMOS
M4 N012 NC_04 N021 N021 NMOS
M5 N021 NC_05 0 0 NMOS
M6 0 NC_06 N023 N023 NMOS
M7 N002 NC_07 N005 N005 NMOS
M8 N005 NC_08 N012 N012 NMOS
M9 N012 NC_09 N017 N017 NMOS
M10 N017 NC_10 N022 N022 NMOS
M11 N003 NC_11 N007 N007 NMOS
M12 N007 NC_12 0 0 NMOS
M13 N002 NC_13 N003 N003 NMOS
M14 N001 NC_14 N019 N019 NMOS
M15 N019 NC_15 N023 N023 NMOS
M16 N023 NC_16 N022 N022 NMOS
D1 N008 N001 D
D2 N012 N008 D
D3 N001 N003 D
D4 N021 N012 D
D5 0 N021 D
D6 N023 0 D
D7 N005 N002 D
D8 N012 N005 D
D9 N017 N012 D
D10 N022 N017 D
D11 N007 N003 D
D12 0 N007 D
D13 N003 N002 D
D14 N019 N001 D
D15 N023 N019 D
D16 N022 N023 D
V1 N004 N015 12
V2 N010 N012 4
V3 N014 0 4
R1 N001 N010 5m
R2 N012 N014 5m
R3 N004 N005 5m
R4 N015 N016 5m
L1 N004 N005 100n
L2 N017 N016 100n
C1 N008 N009 5µ
C2 N020 N021 5µ
C3 N006 N007 2.5µ
C4 N019 N018 2.5µ
C5 N001 N011 2µ
C6 N012 N013 2µ
R5 N009 N003 3m
R6 N006 N002 3m
R7 N023 N020 3m
R8 N022 N018 3m
R9 N011 N012 2m
R10 N013 0 2m
C7 N005 N004 1
.model D D
.lib C:\Users\jb\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\jb\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1
.backanno
.end
