* SeriesCapBuck.asc
V1 N001 0 {Vg} Rser=1m
L1 N003 N004 {Lf}
C1 N004 0 {Cout}
R1 N004 0 {Rout}
M1 N001 NC_02 N002 N002 NMOS ron = {ron} Coss = {Coss}
M2 N002 NC_01 N005 N005 NMOS ron = {ron} Coss = {Coss}
M3 N005 NC_03 N007 N007 NMOS ron = {ron} Coss = {Coss}
M4 N007 NC_04 0 0 NMOS ron = {ron} Coss = {Coss}
M5 N006 NC_05 0 0 NMOS ron = {ron} Coss = {Coss}
M6 N003 NC_06 0 0 NMOS ron = {ron} Coss = {Coss}
Cfly1 N002 N003 {Cfly}
Cfly2 N005 N006 {Cfly}
L2 N006 N004 {Lf}
L3 N007 N004 {Lf}
.end