* G:\My Drive\Graduate Reserach\LTSpice\3-Level\3levelbuck.asc
M1 N006 NC_01 0 0 NMOS
M2 N003 NC_02 N006 N006 NMOS
M3 N002 NC_03 N003 N003 NMOS
M4 N001 NC_04 N002 N002 NMOS
C1 N002 N006 10µ
V1 N001 0 16
L1 N003 N004 0.6µ
R1 N004 N005 0.0045
C2 N005 0 10µ
R2 N005 0 2
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\jb\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1
.backanno
.end
