* C:\Users\jared\Documents\Graduate Reserach\LTSpice\From H Drive\Buck2.asc
V1 N001 0 10
L1 N003 out 20m
M1 N001 NC_01 N002 N002 BSC032NE2LS
C1 out 0 10µ
D1 0 N002 RB060MM-40
I1 out 0 2
R1 N003 N002 1
.model D D
.lib C:\Users\jared\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\jared\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1
.ic V(out)=20 I(L1)=-10
.backanno
.end
