* H:\Graduate Research\Dickson.asc
V1 N001 0 10
L1 N010 N011 20m
M1 N009 NC_01 0 0 BSC032NE2LS
C1 N011 0 10µ
R1 N011 0 4
M2 N012 NC_02 0 0 BSC032NE2LS
M3 N010 NC_03 N012 N012 BSC032NE2LS
M4 N010 NC_04 N009 N009 BSC032NE2LS
M5 N008 NC_05 N010 N010 BSC032NE2LS
M6 N007 NC_06 N008 N008 BSC032NE2LS
M7 N006 NC_07 N007 N007 BSC032NE2LS
M8 N005 NC_08 N006 N006 BSC032NE2LS
M9 N004 NC_09 N005 N005 BSC032NE2LS
M10 N003 NC_10 N004 N004 BSC032NE2LS
M11 N002 NC_11 N003 N003 BSC032NE2LS
M12 N001 NC_12 N002 N002 BSC032NE2LS
C2 N002 N009 1
C3 N004 N009 1
C4 N006 N009 1
C5 N008 N009 1
C6 N007 N012 1
C7 N005 N012 1
C8 N003 N012 1
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\jared\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1
.ic V(out)=20 I(L1)=-10
.backanno
.end
