* G:\My Drive\Graduate Reserach\LTSpice\Flyback\Active_Clamp_Flyback.asc
V1 N003 0 20
M1 N006 0 0 0 NMOS
L1 N003 N006 1m
L2 0 N001 4m
C1 N004 0 10µ
R1 N004 0 10
L3 N003 N006 0.5m
M2 N004 N001 N001 N001 NMOS
.model D D
.lib C:\Users\jb\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\jb\Documents\LTspiceXVII\lib\cmp\standard.mos
K1 L1 L2 1
.tran 1
.backanno
.end

